US05942515
Preparation of 8-tert-butyl-6,7-dihydro-5-methyl-3-nitro-8H-pyrrolo[3,2-e]pyrazolo[1,5-a]pyrimidine:
In 18 ml of anhydrous dimethylformamide were dissolved 1.75 g (6.36 mmol) of 7-chloro-6-(2-chloroethyl)-5-methyl-3-nitropyrazolo[1,5-a]pyrimidine, and 0.93 g (12.72 mmol) of tert-butylamine and 1.61 g (15.94 mmol) of triethylamine were successively added to the solution, and the mixture was stirred at room temperature for 6 hours. Thereafter, the reaction mixture was poured into water and extracted with ethyl acetate (150 ml×2). The ethyl acetate layers were put together, washed with a saturated saline solution and dried over anhydrous magnesium sulfate, and the solvent was then distilled off. The residue was subjected to column chromatography on silica gel (hexane:ethyl acetate=2:1) and recrystallized from ethanol to obtain 0.78 g (yield: 44.6%) of the intended product.

reactant | 7-chloro-6-(2-chloroethyl)-5-methyl-3-nitropyrazolo[1,5-a]pyrimidine | 6.36 mmol, 1.75 g | ClC1=C(C(=NC=2N1N=CC2[N+](=O)[O-])C)CCCl | C9H8Cl2N4O2
reactant | tert-butylamine | 12.72 mmol, 0.93 g | C(C)(C)(C)N | C4H11N
reactant | triethylamine | 15.94 mmol, 1.61 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
product | 8-tert-butyl-6,7-dihydro-5-methyl-3-nitro-8H-pyrrolo[3,2-e]pyrazolo[1,5-a]pyrimidine | 0.78 g, yield: 44.6% | C(C)(C)(C)N1CCC=2C(=NC=3N(C21)N=CC3[N+](=O)[O-])C | C13H17N5O2
